US07696216B2
To an ice chilled solution of 16 g (5-allyloxy-2-nitro-phenyl)-(4-isopropyl-phenyl)-methanone in 65 ml acetic acid are added 21.8 g iron powder. A precipitate that is formed is brought into solution by addition of additional acetic acid. After stirring for 16 h at r.t. the reaction mixture is filtered and basified by addition of aqueous potassium hydroxide solution. Extraction with dichloromethane yields (5-allyloxy-2-amino-phenyl)-(4-isopropyl-phenyl)-methanone.

reactant | (5-allyloxy-2-nitro-phenyl)-(4-isopropyl-phenyl)-methanone | 16 g | C(C=C)OC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)C(C)C)[N+](=O)[O-] | C19H19NO4
solvent | acetic acid | 65 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 21.8 g | [Fe] | Fe
product | (5-allyloxy-2-amino-phenyl)-(4-isopropyl-phenyl)-methanone | C(C=C)OC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)C(C)C)N | C19H21NO2
